US09403801B2
Step 1) N-benzyl-3-oxobutanamide
To a solution of 4-methyleneoxetan-2-one (60.00 g, 713.69 mmol) in DCM (600 mL) was added phenylmethanamine (91.76 g, 856.43 mmol) dropwise at 0° C. After addition, the reaction mixture was stirred at rt overnight and concentrated in vacuo. The residue was beaten with a mixture of PE and EtOAc (10/1 (v/v), 200 mL) for 1 h and filtered. The filter cake was washed with a mixture of PE and EtOAc (10/1 (v/v), 100 mL) to give the title compound as a yellow solid (136.38 g, 100%).

reactant | 4-methyleneoxetan-2-one | 713.69 mmol, 60.00 g | C=C1CC(O1)=O | C4H4O2
reactant | phenylmethanamine | 856.43 mmol, 91.76 g | C1(=CC=CC=C1)CN | C7H9N
solvent | DCM | 600 mL | C(Cl)Cl | CH2Cl2
product | N-benzyl-3-oxobutanamide | 136.38 g, 100% | C(C1=CC=CC=C1)NC(CC(C)=O)=O | C11H13NO2
